US05155100
Benzyl (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)propionyl]-3-aminopropionate (720 mg, 1.1 mmol) is dissolved in THF (15 mL) and treated with 2N hydrochloric acid. The solution is stirred at room temperature for 8 hours. The precipitate is filtered. It can be further purified by column chromatography on silica gel, eluting with a mixture of methylene chloride-methanol-acetic acid (95/5/25), to obtain benzyl (S)-N-[2-(monophenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionate m.p. 243°-244°.

reactant | Benzyl (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)propionyl]-3-aminopropionate | 1.1 mmol, 720 mg | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)CN[C@H](C(=O)NCCC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)C1=CC=CC=C1 | C38H37N2O6P
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | benzyl (S)-N-[2-(monophenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionate | C1(=CC=CC=C1)OP(=O)(O)CN[C@H](C(=O)NCCC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)C1=CC=CC=C1 | C32H33N2O6P
